US08686005B2
3-Chloro-2,4-dimethylphenol.
To a suspension of 3-chloro-2,4-dimethyl-aniline (0.47 g, 3.0 mmol), in a mixture of water (3 mL) and conc. H2SO4 (2 ml), a solution of Na2NO2 (0.22 g) in H2O (5 ml) was added dropwise at 0° C. The mixture was stirred 1 h at 0° C., than treated with urea (0.2 g), stirred for 10 min at 0° C. A solution of CuSO4 (1.0 g) in water (6 mL) was added and the mixture was stirred for 60 h at RT. The reaction mixture was extracted with CH2Cl2 (2×20 ml), extracts were dried over Na2SO4 and evaporated. The residue was separated on SiO2 (4.0 g) column, hexane-EtOAc (0 to 10%). Brown crystals, 45 mg (0.29 mmol, 10%).

reactant | 3-chloro-2,4-dimethyl-aniline | 3.0 mmol, 0.47 g | ClC=1C(=C(N)C=CC1C)C | C8H10ClN
reactant | H2SO4 | 2 ml | OS(=O)(=O)O | H2O4S
reactant | urea | 0.2 g | NC(=O)N | CH4N2O
solvent | water | 3 mL | O | H2O
solvent | H2O | 5 ml | O | H2O
solvent | water | 6 mL | O | H2O
catalyst | CuSO4 | 1.0 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | 3-Chloro-2,4-dimethylphenol | ClC=1C(=C(C=CC1C)O)C | C8H9ClO
